US07488733B2
Methyl 2-cyano-3-[(4-fluorophenyl)amino]-3-(methylsulfanyl)-2-propenoate
0.5 g (4.5 mmol) of 4-fluoroaniline is thoroughly mixed with 0.91 g (4.5 mmol) of methyl 3,3-bis(methylthio)-2-cyanoacrylate (R. Gompper, W. Toepfl, Chem. Ber. 1962, 95, 2861-2870). The reaction mixture is heated at 150° C. for 2 h, resulting in a melt. After cooling, a pale solid is obtained and is washed several times with methanol. 0.68 g (55.7% of theory) of the desired product is obtained.

reactant | 4-fluoroaniline | 4.5 mmol, 0.5 g | FC1=CC=C(N)C=C1 | C6H6FN
reactant | methyl 3,3-bis(methylthio)-2-cyanoacrylate | 4.5 mmol, 0.91 g | CSC(=C(C(=O)OC)C#N)SC | C7H9NO2S2
product | Methyl 2-cyano-3-[(4-fluorophenyl)amino]-3-(methylsulfanyl)-2-propenoate | C(#N)C(C(=O)OC)=C(SC)NC1=CC=C(C=C1)F | C12H11FN2O2S
